US08791303B2
A solution of 2-(4-bromo-2,6-dimethyl-phenyl)-5-(cyclohexyl-hydroxy-methyl)-3-methoxy-cyclopent-2-enone (1.38 g, 3.4 mmol) in ethanol (27.6 ml) and 2N aqueous hydrochloric acid (13.8 ml) is subjected to microwave irradiation at 130° C. for 40 minutes. The reaction mixture is concentrated under vacuum to remove ethanol. The aqueous layer was extracted with ethyl acetate (3×100 ml) and combined organic layers are dried with sodium sulfate and concentrated under vacuum to obtain crude mass. The compound was purified by column chromatography to give 2-(4-bromo-2,6-dimethyl-phenyl)-4-[1-cyclohexyl-meth-(E)-ylidene]-cyclopentane-1,3-dione (250 mg).

reactant | 2-(4-bromo-2,6-dimethyl-phenyl)-5-(cyclohexyl-hydroxy-methyl)-3-methoxy-cyclopent-2-enone | 3.4 mmol, 1.38 g | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)C(O)C1CCCCC1)=O)C | C21H27BrO3
solvent | ethanol | 27.6 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2N, 13.8 ml | Cl | ClH
product | 2-(4-bromo-2,6-dimethyl-phenyl)-4-[1-cyclohexyl-meth-(E)-ylidene]-cyclopentane-1,3-dione | 250 mg | BrC1=CC(=C(C(=C1)C)C1C(C\C(\C1=O)=C/C1CCCCC1)=O)C | C20H23BrO2
